2112-04-04 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 765**] is a 38F with type 1 DM, severe PVD s/p
   recent right femoral bypass, and cocaine abuse, presenting with altered
   mental status, leukocytosis, ARF, and DKA.
   24 Hour Events:
 MULTI LUMEN - START [**2112-4-3**] 04:53 PM
   Allergies:
   Elavil (Oral) (Amitriptyline Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-4-3**] 10:00 PM
   Other medications:
   Flowsheet Data as of  [**2112-4-4**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 85 (71 - 86) bpm
   BP: 133/73(88) {82/50(56) - 158/92(103)} mmHg
   RR: 11 (9 - 18) insp/min
   SpO2: 98%
    CVP: 2 (2 - 8)mmHg
   Total In:
                                                                  2,688 mL
                                                                    349 mL
   PO:
   TF:
   IVF:
                                                                  2,688 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                  1,520 mL
   Urine:
                                                                  1,000 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,688 mL
                                                                 -1,171 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished, Somnolent, arousable to voice,
   oriented to person and place, cannot tell me the year.
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Conjunctiva pale,
   No(t) Sclera edema, Dry mucous membranes
   Head, Ears, Nose, Throat: Normocephalic, Neck Supple, No LAD, No
   thyromegaly.
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent, Left BKA, stump is warm,
   well-perfused, no skin changes.  Right distal hallux, third, and fifth
   toes black.  Absent pulses, cool on right foot.  2cm ulcer with dry
   gangrene on right first toe.  Cachectic below the knee, paucity of hair
   growth, skin is breaking down.  No fluctuance or erythema or drainage.
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, Tone:
   Normal, A&O to person, place.  Not fully coopertive with the neuro
   exam.  [**6-7**] grip, biceps, triceps, able to lift both legs off bed
   against resistance.  Normal biceps, reflexes.  Uncoopertive with CN
   exam.
   Labs / Radiology
   576 K/uL
   10.6 g/dL
   71 mg/dL
   1.7 mg/dL
   17 mEq/L
   4.2 mEq/L
   53 mg/dL
   116 mEq/L
   142 mEq/L
   32.6 %
   15.4 K/uL
        [image002.jpg]
                             [**2112-4-3**]  04:30 PM
                             [**2112-4-3**]  04:34 PM
                             [**2112-4-3**]  06:47 PM
                             [**2112-4-3**]  09:01 PM
                             [**2112-4-3**]  11:53 PM
                             [**2112-4-4**]  12:50 AM
                             [**2112-4-4**]  02:08 AM
                             [**2112-4-4**]  03:43 AM
                             [**2112-4-4**]  04:09 AM
   WBC
   15.2
   15.4
   Hct
   29.2
   32.6
   Plt
   513
   576
   Cr
   2.9
   1.7
   TropT
   0.05
   Glucose
   437
   533
   344
   266
   154
   66
   74
   71
   Other labs: PT / PTT / INR:12.4/28.0/1.0, CK / CKMB /
   Troponin-T://0.05, Differential-Neuts:78.3 %, Lymph:12.7 %, Mono:7.1 %,
   Eos:1.6 %, Lactic Acid:0.9 mmol/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 765**] is a 38F with type 1 DM, severe PVD s/p recent right femoral
   bypass, and cocaine abuse, presenting with altered mental status,
   leukocytosis, ARF, and DKA.
   .
   #. DKA: unclear source, possibly medication non-compliance vs.
   infection.  No signs of cardiac ischemia.  Leukocytosis may be real or
   hemoconcentration, as all cell lines are elevated.  UA and CXR are
   non-focal, only possible infectious source is her right foot.
   -Liberal volume resuscitation with isotonic fluid (NS), likely needs
   7-10% of body weight repleted.  Will watch respiratory status closely
   given h/o bisystolic dysfunction.
   -Insulin infusion at 5-6units/hr (0.1units/kg/hr) until blood sugar
   normalizes and anion gap closes, will avoid >100unit decrements/hour.
   -Will monitor q2H pH, electrolytes, and q1H FSBS
   -Add 5% dextrose to fluids when BS <250 to allow for insulin gtt to
   infuse
   -Stop insulin/dextrose when BS <250, and anion gap closes, and provide
   home dose of SC 75/25 insulin dose.
   -Add potassium to repletion fluids once <4.5
   -Re-check a set of cardiac enzymes at 12H, f/u infectious w/u
   .
   #. Leukocytosis: [**Month (only) 51**] be real, or a result of hemoconcentration, as all
   cell lines are up, and trending down with fluids.  Possible source
   would be her gangrenous right foot.
   -Follow up blood and urine cultures, repeat UA, and follow up CXR read
   -No signs of active infection at the moment, vancomycin should stay on
   board given renal function.
   .
   #. Acute renal failure: Likely a result of profound dehydration, as
   evidenced by BUN/Cr ratio >20 in the setting of DKA.
   -Continue aggressive volume resuscitation as above
   -Continue nephrocaps
   -Renally dose all meds
   .
   #. Cocaine abuse: Urine tox screen is positive for cocaine, prior OMR
   notes indicate that this is an ongoing problem.
   -Hold home regimen of metoprolol, and will discuss possible dangers of
   beta blockers in this patient with PCP
   [**Name9 (PRE) **] consult on the floor
   .
   #. Type 1 DM:
   -Manage DKA as above, will initiate home regimen of insulin once
   stabilized.
   -Continue ASA ppx
   .
   #. CAD with biventriuclar systolic dysfunction
   -Will monitor closely during volume resuscitation for signs of hypoxia
   -Hold BB and lisinopril as above
   -Continue ASA PPX
   -Will order echocardiogram in AM to assess EF, as Dr. [**Last Name (STitle) 669**] planned to
   obtain one in his recent note.
   .
   #. Chronic Pain
   -Continue home regimen of oxycodone once blood pressure is stable, and
   mental status clears
   .
   #. Anxiety/depression
   -continue home regimen of clonazepam and lorazapam once blood pressure
   is stable and mental status clears
   .
   #. Chronic anemia: Baseline 25-30, currently [**Last Name (LF) 6052**], [**First Name3 (LF) **]
   monitor with daily labs.
   .
   #. Hepatitis B: stable, no active issues.
   .
   #. PVD: Will let Dr. [**Last Name (STitle) 2494**] know of her admission.
   ICU Care
   Nutrition:
   Glycemic Control: Insulin infusion
   Lines:
   Multi Lumen - [**2112-4-3**] 04:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments: [**Name (NI) **] (father)
   [**Telephone/Fax (1) 4447**], [**Name (NI) 6053**] (sister) [**Telephone/Fax (1) 6054**]
   Code status: Full code
   Disposition: ICU
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Ms. [**Known lastname 765**] is a 38 F with Type 1 DM and severe
   PVD. She is admitted to the MICU for DKA. Her tox screen is also
   positive for cocaine.
   Exam notable for Tm 96 F BP 97/60 HR 78 RR 10-16/min. Labs notable for
   HCO3 11 and venous pH 7.15. Pt is difficult to arouse, heart with RR,
   no gallops/rubs/murmurs. Lung sounds are clear. Abd is soft and
   nontender. Agree with plan to continue fluids and IV insulin and follow
   anion gap.
   Remainder of plan as outlined above.
   Patient is critically ill due to acidosis and hyperglycemia.
   Total time: 50 min
   MEDS
             1. Aspirin 81 mg PO DAILY  Order date: [**4-3**] @ 1620
   6. Insulin SC  Sliding Scale & Fixed Dose
   2. Heparin 5000 UNIT SC TID  Order date: [**4-3**] @ 1620
   7. Nephrocaps 1 CAP PO DAILY
   3. Senna 1 TAB PO BID:PRN
   8. Omeprazole 20 mg PO DAILY
   4. Bisacodyl 10 mg PO/PR DAILY:PRN
   9. Vitamin D 400 UNIT PO BID
   5. Docusate Sodium (Liquid) 100 mg PO BID

2112-04-05 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   38F with type 1 DM, severe PVD s/p recent right femoral bypass, and
   cocaine abuse, presenting with altered mental status, leukocytosis,
   ARF, and DKA
   24 Hour Events:
   [**4-4**]
   - lipase 10, amylase 283
   - (vasc [**Doctor First Name 213**], Dr. [**Last Name (STitle) 5039**], no R foot ischemia, no RLE infection,
   eventually R BKA)
   - FENA 3.7%
   - became nauseous- zofran/compazine added
   - AG opened 17 -> 20 -> 15 as off 3am
   Allergies:
   Elavil (Oral) (Amitriptyline Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-4-4**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-4-5**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 99 (80 - 114) bpm
   BP: 167/74(96) {111/61(76) - 194/120(126)} mmHg
   RR: 26 (11 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,981 mL
                                                                  1,229 mL
   PO:
                                                                    520 mL
             TF:
   IVF:
                                                                  2,461 mL
                                                                  1,229 mL
   Blood products:
   Total out:
                                                                  5,325 mL
                                                                  2,655 mL
   Urine:
                                                                  4,675 mL
                                                                  2,555 mL
   NG:
                                                                    650 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,344 mL
                                                                 -1,422 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   522 K/uL
   10.0 g/dL
   262
   1.0 mg/dL
   22 mEq/L
   3.7 mEq/L
   17 mg/dL
   97 mEq/L
   134 mEq/L
   29.8 %
   12.7 K/uL
        [image002.jpg]
                             [**2112-4-3**]  09:01 PM
                             [**2112-4-3**]  11:53 PM
                             [**2112-4-4**]  12:50 AM
                             [**2112-4-4**]  02:08 AM
                             [**2112-4-4**]  03:43 AM
                             [**2112-4-4**]  04:09 AM
                             [**2112-4-4**]  04:45 PM
                             [**2112-4-4**]  11:41 PM
                             [**2112-4-5**]  03:00 AM
                             [**2112-4-5**]  06:00 AM
   WBC
   15.4
   12.7
   Hct
   32.6
   29.8
   Plt
   576
   522
   Cr
   1.7
   1.3
   1.0
   1.0
   TropT
   0.05
   Glucose
   266
   154
   66
   74
   71
   197
   122
   152
   262
   Other labs: PT / PTT / INR:12.4/28.0/1.0, CK / CKMB /
   Troponin-T://0.05, ALT / AST:35/24, Alk Phos / T Bili:286/0.2, Amylase
   / Lipase:289/10, Differential-Neuts:78.3 %, Lymph:12.7 %, Mono:7.1 %,
   Eos:1.6 %, Lactic Acid:1.1 mmol/L, LDH:173 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 765**] is a 38F with type 1 DM, severe PVD s/p recent right femoral
   bypass, and cocaine abuse, presenting with altered mental status,
   leukocytosis, ARF, and DKA.
   .
   #. DKA:
   Dx: Etiology unclear. Leading diagnosis is noncompliance with insulin.
   Infectious causes generally ruled out with negative cultures, CXR.
   Right foot remains possible source of infection.
   - Continue aggressive maintenance fluids including sugar replacement as
   D5 3amps of bicarb may be contributing to hypoglycemia.
   - Advance diet as tolerated
   - recheck evening lytes, replete prn
   .
   # Abdominal Pain: New onset this AM after exam. Abdomen benign.
   - DDx includes gastroparesis, anxiety. LFTs, amylase, lipase WNL.
   - pain management with home hydrocodone and home ativan.
   .
   #. Acute renal failure: Likely a result of profound dehydration,
   improving with IVF.
   -Continue aggressive volume resuscitation as above, check urine lytes
   -Continue nephrocaps
   -Renally dose all meds
   .
   #. Cocaine abuse: Urine tox screen is positive for cocaine, prior OMR
   notes indicate that this is an ongoing problem.
   - Avoiding BB to prevent unopposed alpha effects of cocaine
   - SW consult on the floor
   .
   #. Type 1 DM:
   - continue SC sugar control
   - diabetic diet
   - teaching re insulin
   .
   #. CAD with biventriuclar systolic dysfunction. Tolerated fluid
   resuscitation without hypoxia or dyspnea
   - Ruled out for MI, had previously had NSTEMI in setting of cocaine and
   DKA
   - Hold BB (in setting of active cocaine) and lisinopril as above
   - Continue ASA
   - Recheck echo
   .
   #. Chronic Pain
   -Continue home regimen of oxycodone once blood pressure is stable, and
   mental status clears
   .
   #. Anxiety/depression
   - restart home ativan and clonaxepam now that mental status cleared
   .
   #. Chronic anemia: Baseline 25-30, improved to near baseline with IVF.
   .
   #. Hepatitis B: stable, no active issues.
   .
   #. PVD: Dr. [**Last Name (STitle) 2494**] informed of admission as had recent surgery
   .
   # FEN: Diabetic diet, maintenance fluids with D5 3amps of bicarb if not
   tolerating POs, lytes prn
   # PPx: SC hep, no need for PPI, bowel regimen and pain control
   # Full code, consent signed.
   # Contact: [**Name (NI) **] (father) [**Telephone/Fax (1) 4447**], [**Name (NI) 6053**] (sister) [**Telephone/Fax (1) 6054**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-4-3**] 04:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   1. Aspirin 81 mg PO DAILY  Order date: [**4-3**] @ 1620
   6. Insulin SC  Sliding Scale & Fixed Dose
   2. Heparin 5000 UNIT SC TID  Order date: [**4-3**] @ 1620
   7. Nephrocaps 1 CAP PO DAILY
   3. Senna 1 TAB PO BID:PRN
   8. Omeprazole 20 mg PO DAILY
   4. Bisacodyl 10 mg PO/PR DAILY:PRN
   9. Vitamin D 400 UNIT PO BID
   5. Docusate Sodium (Liquid) 100 mg PO BID